US08183397B2
Step b): Preparation of (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)-tetrahydropyran-2-one (III′)
To a solution of 0.5 g of (4R,6S)-6-(dimethoxymethyl)-4-hydroxy-tetrahydropyran-2-one (II′) in 50 mL of dichloromethane, 280 mg of imidazole are added at 25° C. After cooling to 0° C., 400 mg of tert-butyldimethylsilyl chloride are added. The reaction mixture is then stirred for 18 hours and dichloromethane is distilled off. The residue is flash chromatographed (DIPE/acetonitrile=5/1). The solvents are distilled off to get the title compound.

reactant | (4R,6S)-6-(dimethoxymethyl)-4-hydroxy-tetrahydropyran-2-one | 0.5 g | COC([C@@H]1C[C@H](CC(O1)=O)O)OC | C8H14O5
reactant | imidazole | 280 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 400 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (4R,6S)-4-(tert-butyldimethylsilyloxy)-6-(dimethoxymethyl)-tetrahydropyran-2-one | [Si](C)(C)(C(C)(C)C)O[C@H]1CC(O[C@@H](C1)C(OC)OC)=O | C14H28O5Si
